US09382247B2
1.2.2. Step 2: Cyclopropanecarboxylic acid [5-(4-bromomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide
To a solution of cyclopropanecarboxylic acid [5-(4-hydroxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (1.0 eq) in chloroform is slowly added phosphorus tribromide (1.0 eq.). The reaction mixture is stirred at room temperature for 20 h, quenched with ice and water (20 mL) and extracted with dichloromethane. The organic layer is dried over anhydrous MgSO4, filtered and concentrated to dryness. The resulting white residue is triturated in dichloromethane/diethyl ether 2:1 to afford the desired product.

reactant | cyclopropanecarboxylic acid [5-(4-hydroxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | 1.0 eq | OCC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C17H16N4O2
reactant | phosphorus tribromide | 1.0 eq. | P(Br)(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Cyclopropanecarboxylic acid [5-(4-bromomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | BrCC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C17H15BrN4O
